Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypotension, weakness 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is an ___ M with h/o HTN, dementia, 
Parkinsonism and venous stasis ulcers who presents with one day 
of generalized weakness, dyspnea, leg heaviness and nausea, 
found to be hypotensive at his day program. 
 
History difficult to obtain as pt is ___ speaking and 
has dementia, unable to reach interpretor overnight. Per ED 
documentation, he reports one day of generalized weakness and 
feeling like his legs are heavy. He has also had some 
intermittent shortness of breath and epigastric pain. Reports 
nausea and hiccups as well. He is a chronic lower back pain that 
has also been worsening over the last week. Paresthesias in the 
right leg but no numbness or paresthesias on the left. No 
urinary or bowel incontinence. No chest pain. No fevers or 
chills.  
- In the ED intial vitals were: 98.0 ___ 18 97% RA.  
- He triggered on arrival for hypotension which resolved with 1L 
NS. Tmax in ED was 100.2, resolved without tylenol.  
- EKG showed new AFib (rate 100), in and out of AFib on tele in 
the ED.  
- Labs notable for BNP ___, Trop 0.02 -> 0.01, normal BUN/Cr 
(___), lactate 1.7, nomal LFTs and coags, WBC 9.2. UA was 
bland. CT ___ showed no acute intra-abdominal process. Rectal 
exam hemoccult negative.  
- Cardiology was consulted regarding new AFib and felt he did 
not appear significantly volume overloaded, felt hypotension may 
be ___ taking antihypertensives in setting of infection and 
recommended TTE and inpt cards C/S.  
- Patient was given: Cipro 400mg IV and Flagyl 500mg IV.  
- Vitals on transfer: 98.0 68 111/61 15 98% RA  
 
Past Medical History:
- HTN  
- Dementia (vascular dementia vs. Alzheimer's disease)  
- Parkinsonism  
- Venous stasis ulcers  
- BPH

Past Surgical History:  
- Strangulated L inguinal surgery s/p ex-lap and small bowel 
resection ___, ___)  
- R inguinal hernia repair (___)  
 
Social History:
___
Family History:
None
 
Physical Exam:
Admission physical:

Vitals- 98.0, 118/68, 70, 18, 99% RA  
General- awake, alert, unable to assess orientation, NAD. 
Pleasant and cooperative with examiner.  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP 2cm above clavicle, no LAD.  
Lungs- +faint crackles at bases, L>R. No wheezes or rhonchi.  
CV- Regular rate and rhythm, normal S1 + S2, ___ murmur heard 
loudest at apex. No rubs or gallops.  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly. Surgical 
scars noted.  
GU- no foley  
Ext- warm, well perfused. 1+ pitting edema at ankles. Venous 
stasis ulcer noted on posterior left leg. No clubbing or 
cyanosis.  
Neuro- CNs2-12 intact, motor function grossly normal  

-------------
Discharge physical:

Vitals- T 98, BP 113/66, HR 68, RR 18, SpO2 98 ra
General- Awake, alert, pleasant and cooperative with examiner. 
Able to converse in ___ with the phone interpreter this 
morning.  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated.  
Lungs- CTAB, no wheezes/crackles auscultated  
CV- Regular rate and rhythm, normal S1 + S2, ___ murmur heard 
loudest at lateral apex. No rubs or gallops.  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly. Vertical 
surgical scar on lower abdomen.  
GU- no foley  
Ext- warm, well perfused. 1+ pitting edema at ankles, unchanged. 
Venous stasis ulcer noted on posterior left leg; bandage clean 
and dry. No clubbing or cyanosis.  
Neuro- Oriented to person/place/month. CNs2-12 grossly intact. 
Some cogwheeling rigidity noted in the bilateral arms. Good ROM 
and ___ strength in all extremities. Gait not assessed.  
 
Pertinent Results:
Admission labs:

___ 04:17PM BLOOD WBC-9.2 RBC-4.05* Hgb-13.3* Hct-39.4* 
MCV-97 MCH-32.8* MCHC-33.7 RDW-12.2 Plt ___
___ 04:17PM BLOOD Neuts-73.5* Lymphs-16.6* Monos-7.5 
Eos-1.0 Baso-1.3
___ 04:17PM BLOOD ___ PTT-28.6 ___
___ 04:17PM BLOOD Glucose-107* UreaN-20 Creat-0.7 Na-135 
K-3.8 Cl-99 HCO3-26 AnGap-14
___ 04:17PM BLOOD ALT-16 AST-33 AlkPhos-56 TotBili-0.5
___ 04:17PM BLOOD Lipase-19
___ 04:17PM BLOOD proBNP-___*
___ 04:17PM BLOOD cTropnT-0.02*
___ 06:45PM BLOOD cTropnT-0.01
___ 04:17PM BLOOD Albumin-3.8 Calcium-8.8 Phos-2.6* Mg-2.2
___ 07:45AM BLOOD TSH-2.0
___ 04:29PM BLOOD Lactate-1.7

Imaging:

___ EKG
Baseline artifact. Difficult to discern the rhythm due to 
artifact but most
likely sinus rhythm with occasional atrial premature 
contractions. Poor R wave
progression. Cannot rule out anteroseptal myocardial infarction 
of
indeterminate age. Diffuse non-specific ST-T wave changes. 
Compared to the
previous tracing of ___ no significant diagnostic change 
except for
occasional atrial premature contractions.

___
IMPRESSION:  Limited, negative.

___ CT abdomen/pelvis
IMPRESSION:
 
No evidence of acute intra-abdominal process. Large prostate 
gland. 

___ EKG
Sinus rhythm. Occasional ventricular premature contractions. 
Compared to
tracing #1 heart rate is slower. Atrial premature contractions 
have resolved
but ventricular premature contractions are now present. 
Otherwise, there is no
other significant change

___ CXR
FINDINGS:  As compared to the previous radiograph, there is no 
relevant
change.  Relatively low lung volumes.  Borderline size of the 
cardiac
silhouette.  No pleural effusions.  No pneumonia.

___ Echo
IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with preserved biventricular cavity size 
and global systolic function. Technically suboptimal to exclude 
focal wall motion abnormality. Mild mitral regurgitation. 

Microbiology: Blood cultures pending (___)

Discharge labs:

___ 05:45AM BLOOD WBC-5.7 RBC-3.43* Hgb-11.4* Hct-33.8* 
MCV-98 MCH-33.2* MCHC-33.7 RDW-12.1 Plt ___
___ 05:45AM BLOOD Plt ___
___ 05:45AM BLOOD Glucose-92 UreaN-19 Creat-0.7 Na-138 
K-3.9 Cl-110* HCO3-25 AnGap-7*
___ 05:45AM BLOOD CK(CPK)-108
___ 07:45AM BLOOD CK-MB-8 cTropnT-0.01
___ 05:45AM BLOOD Calcium-8.1* Phos-3.3 Mg-2.1
 
Brief Hospital Course:
___ is an ___ M with h/o HTN, dementia, 
Parkinsonism and venous stasis ulcers who presents with one day 
of generalized weakness, dyspnea, leg heaviness and nausea, 
found to be hypotensive with new AFib on EKG. 
 
# HYPOTENSION: Possible etiologies included hypovolemia, sepsis 
or cardiogenic etiology (CHF). Resolved with 1L IVF, which 
supports hypovolemia. Most likely cause is patient taking his 
antihypertensives in the setting of poor po intake given his 
dementia and poor mobility. Cardiogenic etiology was also 
possible given new AFib which could have worsened contractility 
and resulted in pulmonary edema (though no significant pulm 
edema on CXR). Elevated BNP supports CHF. Prior TTE showed 
normal EF but new mitral regurg; TTE was obtained on ___ and 
showed improved mitral regurg with no other acute processes. 
Infection was also possible, but no source was determined based 
on workup and patient appeared non-toxic. UA unremarkable. 
During his hospital stay, he was given maintenance IVF's and his 
antihypertensive medications were held. His BP improved and he 
had no signs of pulmonary edema. He was closely monitored for 
signs of infection but remained afebrile with a normal WBC. At 
discharge, his antihypertensive medications continued to be held 
pending outpatient follow-up and repeat blood pressure checks.
 
# AFIB: Pt found to be in new Afib without RVR, in and out of 
AFib on tele on the floor. Possible etiologies included 
infection (although no source identified), ACS (unlikely given 
no ischemic changes on EKG and normal trops x2), or worsening of 
his mitral regurg. CHADS score is 2 (for age and HTN). TTE 
showed reduced mitral regurg compared to previous echo. He was 
maintained on telemetry during his hospital stay and never 
experienced RVR.  At discharge, his aspirin dose was increased 
from 81 to 325 mg daily but he was not placed on additional 
anticoagulation pending outpatient follow-up.   

#Muscle weakness: Patient initially presented with a 
several-month history of worsening back pain and muscle weakness 
that made it difficult for him to ambulate and climb stairs. He 
reported that his pain improved in the hospital, however. DDx 
include decreased blood pressure causing malaise, 
deconditioning, and nerve compression from vertebral compression 
fractures/disc herniation. Neuro exam non-focal. ___ evaluated 
the patient and recommended home ___ upon discharge. Given his 
history of Parkinsonism, it is advisable for him to have 
outpatient follow-up to titrate his dose of ___.

# PEDAL EDEMA: Pt had 2+ pitting edema at ankles upon admission; 
improved during hospitalization. Most likely from fluid 
administration in the ED. Patient never had any episodes of 
pulmonary edema.

#Venous stasis ulcer: Mr. ___ was noted to have a venous 
stasis ulcer on his R leg with a reported history of a burn to 
that leg. Wound care was consulted and gave recommendations. He 
will need follow-up with vascular surgery for his ulcer.

#Social concerns: Patient lives with his wife, who reportedly 
also has dementia, and stated that his children only visit him 
occasionally. He has had a recent fall and has significant 
difficulty climbing the stairs and moving around his house. He 
also uses a walker. His nephew reports that he does not like to 
walk much. Case management and ___ worked to ensure safe 
disposition with home ___.

#Nutrition: Patient had limited po intake over the week prior to 
his admission. Nutrition was consulted and recommended Ensure 
TID as well as multivitamins with minerals. Speech and swallow 
cleared him for a regular diet.
 
# BPH: continued tamsulosin (w holding parameters)
  
# PARKINSONISM: Continued ___ need to 
re-address dosing 

Transitional issues:
-Patient will need close follow-up with his PCP, ___, 
vascular surgery, and neurology.
-Wound care recommended using a Profore wrap on his leg, which 
is not available in hospital.
-Will need home ___
-Patient also noted to have anemia during his hospitalization; 
may need further outpatient work-up
-F/u pending blood cultures
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbidopa-Levodopa (___) 1 TAB PO BID 
2. Finasteride 5 mg PO DAILY 
3. Lactulose 15 mL PO BID:PRN constipation 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
5. Terazosin 10 mg PO HS 
6. Timolol Maleate 0.5% 1 DROP LEFT EYE BID 
7. TraMADOL (Ultram) 50 mg PO HS:PRN pain 
8. Valsartan 80 mg PO DAILY 
9. Acetaminophen ___ mg PO Q8H:PRN pain 
10. Aspirin 81 mg PO DAILY 
11. Multivitamins 1 TAB PO DAILY 
12. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q8H:PRN pain 
2. Carbidopa-Levodopa (___) 1 TAB PO BID 
3. Docusate Sodium 100 mg PO BID 
4. Finasteride 5 mg PO DAILY 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
6. Terazosin 10 mg PO HS 
7. Timolol Maleate 0.5% 1 DROP LEFT EYE BID 
8. TraMADOL (Ultram) 50 mg PO HS:PRN pain 
9. Multivitamins W/minerals 1 TAB PO DAILY 
10. Aspirin 325 mg PO DAILY 
11. Lactulose 15 mL PO BID:PRN constipation 
RX *lactulose 10 gram/15 mL (15 mL) 15 mL by mouth twice daily 
Disp #*28 Each Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Active problems:
#Hypotension
#A-fib without RVR
#Deconditioning

Chronic problems:
#BPH
#Parkinsonism

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___. You were admitted 
with weakness, shortness of breath, nausea, back pain, and low 
blood pressure. You were also found to have an irregular heart 
rhythm. We treated you with fluids for dehydration and performed 
a picture of your heart (an echocardiogram) that showed no new 
problems. Please keep your follow-up appointments with your 
primary care physician, ___, vascular surgeon, and 
neurologist. Please take your medications as prescribed.
 
Followup Instructions:
___